US06924278B2
To a stirred mixture of 4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzaldehyde (1.94 g) and 1,4-diacetyl-2,5-piperazinedione (991 mg) in a mixture of N,N-dimethylformamide (10 ml) and tert-butanol (10 ml) was added potassium tert-butoxide (561 mg) at 5° C. The mixture was stirred for 1 hour at room temperature and then poured into water (300 ml), and stirring was continued for 18 hours at room temperature. The resulting precipitates were collected by filtration and washed with water and isopropyl ether, and dried under reduced pressure to give 1-acetyl-3-(4-tert-butyldiphenylsilyloxymethyl-3-methylphenyl)methylene-2,5-piperazinedione (1.88 g) as a powder.

reactant | 4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzaldehyde | 1.94 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=O)C=C1)C | C25H28O2Si
reactant | 1,4-diacetyl-2,5-piperazinedione | 991 mg | C(C)(=O)N1C(CN(C(C1)=O)C(C)=O)=O | C8H10N2O4
reactant | potassium tert-butoxide | 561 mg | CC(C)([O-])C.[K+]
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tert-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 1-acetyl-3-(4-tert-butyldiphenylsilyloxymethyl-3-methylphenyl)methylene-2,5-piperazinedione | 1.88 g | C(C)(=O)N1C(C(NC(C1)=O)=CC1=CC(=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C)=O | C31H34N2O4Si
